US09302985B2
To a solution of 4-bromobenzenesulfonyl chloride (2 g, 7.8 mmol) in DCM (40 mL) was added pyridine (1.9 mL, 23.5 mmol) followed by isobutylamine (1.56 mL, 15.7 mmol) and the reaction was stirred at room temperature for 16 hours. 1M aqueous HCl was added and the reaction extracted with DCM, filtered through a phase separator and concentrated to give 4-bromo-N-isobutyl-benzenesulfonamide (1.99 g). LCMS (m/z, Method A) ES+ 294[M+1]+

reactant | 4-bromobenzenesulfonyl chloride | 7.8 mmol, 2 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | pyridine | 23.5 mmol, 1.9 mL | N1=CC=CC=C1 | C5H5N
reactant | isobutylamine | 15.7 mmol, 1.56 mL | C(C(C)C)N | C4H11N
reactant | HCl | 1M | Cl | ClH
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-N-isobutyl-benzenesulfonamide | 1.99 g | BrC1=CC=C(C=C1)S(=O)(=O)NCC(C)C | C10H14BrNO2S
